US07329764B2
To a solution of 1.0 g (6.4 mmol) of 2,4,6-trifluorobenzonitrile in MeOH (25 mL) was added 1.3 g (6.5 mmol) of 4-N-boc-amino-piperidine along with 1.2 mL (6.7 mmol) of N,N-diisopropylethylamine. The mixture was stirred at room temperature for 3 days then concentrated under reduced pressure to provide a white solid. The solid was washed with large amounts of H2O and dried under vacuum. The solid was recrystallized from hexane/EtOAc to provide 1.23 g (56%) of [1-(4-cyano-3,5-difluoro-phenyl)-piperidin-4-yl]-carbamic acid tert-butyl ester as a white solid.

reactant | 2,4,6-trifluorobenzonitrile | 6.4 mmol, 1.0 g | FC1=C(C#N)C(=CC(=C1)F)F | C7H2F3N
reactant | 4-N-boc-amino-piperidine | 6.5 mmol, 1.3 g | CC(C)(C)OC(=O)NC1CCNCC1 | C10H20N2O2
reactant | N,N-diisopropylethylamine | 6.7 mmol, 1.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | MeOH | 25 mL | CO | CH4O
product | [1-(4-cyano-3,5-difluoro-phenyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 1.23 g, 56% | C(C)(C)(C)OC(NC1CCN(CC1)C1=CC(=C(C(=C1)F)C#N)F)=O | C17H21F2N3O2
